US07977358B2
A] N-[1-Pyrimidin-5-yl-meth-(E)-ylidene]-N′-(3-trifluoromethoxy-phenyl)-hydrazine
In analogy to the procedure described in Example 167A], pyrimidine-5-carbaldehyde and (3-trifluoromethoxy-phenyl)-hydrazine gave the title compound as an orange solid (12%). MS: 281.5 (M−H−).

reactant | pyrimidine-5-carbaldehyde | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | (3-trifluoromethoxy-phenyl)-hydrazine | FC(OC=1C=C(C=CC1)NN)(F)F | C7H7F3N2O
product | N-[1-Pyrimidin-5-yl-meth-(E)-ylidene]-N′-(3-trifluoromethoxy-phenyl)-hydrazine | 12% | N1=CN=CC(=C1)\C=N\NC1=CC(=CC=C1)OC(F)(F)F | C12H9F3N4O
